US09388189B2
b) (S)-2-(1-Aminoethyl)-5-(6-(4-isopropylpiperazin-1-yl)-6-oxohex-1-yn-1-yl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(5-(6-(4-isopropylpiperazin-1-yl)-6-oxohex-1-yn-1-yl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (134 mg, 0.23 mmol) was dissolved in hydrogen chloride (4M in dioxane, 2.5 ml, 10 mmol) and stirred at room temperature overnight. The solvent was removed and tert-butanol and DIEA were added to the crude and the reaction mixture was stirred at 120° C. overnight. The solvents were removed and this crude was used in the following step without further purification. Purity 10%

reactant | (S)-tert-Butyl (1-(5-(6-(4-isopropylpiperazin-1-yl)-6-oxohex-1-yn-1-yl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.23 mmol, 134 mg | C(C)(C)N1CCN(CC1)C(CCCC#CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O)=O | C32H42N6O4
reactant | hydrogen chloride | 10 mmol, 4M, 2.5 ml | Cl | ClH
product | (S)-2-(1-Aminoethyl)-5-(6-(4-isopropylpiperazin-1-yl)-6-oxohex-1-yn-1-yl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C#CCCCC(=O)N2CCN(CC2)C(C)C | C27H34N6O2
